US06727264B1
N-{3-[1-(3-{[(TERT-BUTYLAMINO)CARBOTHIOYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure P and Scheme AB using 2-isothiocyanato-2-methylpropane and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 419.0 (M+H)+.

reactant | 2-isothiocyanato-2-methylpropane | N(=C=S)C(C)(C)C | C5H9NS
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | N-{3-[1-(3-{[(TERT-BUTYLAMINO)CARBOTHIOYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C(C)(C)(C)NC(=S)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C23H38N4OS
